### PR TITLE
feat: lemmas around `BitVec.extractLsb'` and `BitVec.extractLsb`

### PR DESCRIPTION
**Pull request by luisacicolini**
This PR introduces some additional lemmas around `BitVec.extractLsb'` and `BitVec.extractLsb`.

### CODE REVIEW

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -1260,11 +1260,30 @@ theorem extractLsb'_setWidth_of_le {b : BitVec w} {start len w' : Nat} (h : star
...
+  omega
+
 theorem setWidth_extractLsb'_of_le {c : BitVec w} (h : len₁ ≤ len₂) :
     (c.extractLsb' start len₂).setWidth len₁ = c.extractLsb' start len₁ := by
   ext i hi
   simp [show i < len₂ by omega]
 
+theorem extractLsb'_cast {x : BitVec w} :
+    extractLsb' start len (BitVec.cast hcast x) =
+    extractLsb' start len (x) := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
    extractLsb' start len x := by
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -2921,6 +2940,25 @@ theorem setWidth_eq_append {v : Nat} {x : BitVec v} {w : Nat} (h : v ≤ w) :
     omega
   · simp [hiv, getLsbD_of_ge x i (by omega)]
 
+@[simp]
+theorem append_extractLsb'_self {x : BitVec (w + 1)} :
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem extractLsb'_append_extractLsb'_self {x : BitVec (w + 1)} :
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -1260,11 +1260,30 @@ theorem extractLsb'_setWidth_of_le {b : BitVec w} {start len w' : Nat} (h : star
...
   ext i hi
   simp [show i < len₂ by omega]
 
+theorem extractLsb'_cast {x : BitVec w} :
+    extractLsb' start len (BitVec.cast hcast x) =
+    extractLsb' start len (x) := by
+  ext k hk
+  simp
+
+theorem extractLsb'_extractLsb'_of_le {x : BitVec w} (hlt : start + len ≤ len') :
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:1282]:
```suggestion

@[simp]
theorem extractLsb'_extractLsb'_of_le {x : BitVec w} (hlt : start + len ≤ len') :
```

Should this be `simp`?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 4]
```diff
@@ -2921,6 +2940,25 @@ theorem setWidth_eq_append {v : Nat} {x : BitVec v} {w : Nat} (h : v ≤ w) :
...
+    (extractLsb' 1 w x).append (extractLsb' 0 1 x) = x := by
+  ext k hk
+  simp only [append_eq, getElem_append, Nat.lt_one_iff, getElem_extractLsb', Nat.zero_add,
+    dite_eq_ite]
+  by_cases hklt : k = 0
+  · simp [hklt]
+  · simp [hklt, show 1 + (k - 1) = k by omega, getLsbD_eq_getElem (by omega)]
+
+@[simp]
+theorem append_extractLsb'_self' {x : BitVec (w + len)} :
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem extractLsb'_append_extractLsb'_self' {x : BitVec (w + len)} :
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 5]
```diff
@@ -1260,11 +1260,30 @@ theorem extractLsb'_setWidth_of_le {b : BitVec w} {start len w' : Nat} (h : star
   simp
   omega
 
+theorem extractLsb_setWidth_of_lt {x : BitVec w} {hi lo v : Nat} (h : lo + hi < v):
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
@[simp]
theorem extractLsb_setWidth_of_lt {x : BitVec w} {hi lo v : Nat} (h : lo + hi < v) :
```

Should this be simp?

Also: add a missing whitespace at the end  of the line.

Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: addressed

File: src/Init/Data/BitVec/Lemmas.lean (hunk 3 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:1282]: addressed

File: src/Init/Data/BitVec/Lemmas.lean (hunk 1 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: accepted suggestion

File: src/Init/Data/BitVec/Lemmas.lean [hunk 6]
```diff
@@ -1260,11 +1260,32 @@ theorem extractLsb'_setWidth_of_le {b : BitVec w} {start len w' : Nat} (h : star
   simp
   omega
 
+@[simp]
+theorem extractLsb_setWidth_of_lt {x : BitVec w} {hi lo v : Nat} (h : lo + hi < v) :
+    extractLsb hi lo (BitVec.setWidth v x) = BitVec.extractLsb hi lo x := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
    extractLsb hi lo (setWidth v x) = extractLsb hi lo x := by
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 7]
```diff
@@ -1260,11 +1260,32 @@ theorem extractLsb'_setWidth_of_le {b : BitVec w} {start len w' : Nat} (h : star
...
+  omega
+
 theorem setWidth_extractLsb'_of_le {c : BitVec w} (h : len₁ ≤ len₂) :
     (c.extractLsb' start len₂).setWidth len₁ = c.extractLsb' start len₁ := by
   ext i hi
   simp [show i < len₂ by omega]
 
+theorem extractLsb'_cast {x : BitVec w} :
+    extractLsb' start len (BitVec.cast hcast x) =
+    extractLsb' start len x := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
    extractLsb' start len (cast hcast x) = extractLsb' start len x := by
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 8]
```diff
@@ -3316,6 +3351,15 @@ theorem msb_concat {w : Nat} {b : Bool} {x : BitVec w} :
   ext
   simp [getElem_concat]
 
+theorem extractLsb'_concat {x : BitVec (w + 1)} {y : Bool} :
+    BitVec.extractLsb' 0 (t + 1) (x.concat y) = (BitVec.extractLsb' 0 t x).concat y := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
    extractLsb' 0 (t + 1) (x.concat y) = (extractLsb' 0 t x).concat y := by
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 9]
```diff
@@ -3316,6 +3350,15 @@ theorem msb_concat {w : Nat} {b : Bool} {x : BitVec w} :
...
   simp [getElem_concat]
 
+theorem extractLsb'_concat {x : BitVec (w + 1)} {y : Bool} :
+    (x.concat y).extractLsb' 0 (t + 1) = (x.extractLsb' 0 t).concat y := by
+  ext i hi
+  simp only [← getLsbD_eq_getElem, getLsbD_extractLsb', hi, decide_true, Nat.zero_add,
+    getLsbD_concat, Bool.true_and]
+  split
+  · simp
+  · simp [show i - 1 < t by omega]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
  split
  <;> simp
```

Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: this does not work, the hypothesis is needed (and is only true in that specific branch)

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Mathlib CI can not be attempted yet, as the `nightly-testing-2025-12-18` tag does not exist there yet. We will retry when you push more commits. If you rebase your branch onto `nightly-with-mathlib`, Mathlib CI should run now. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-12-18 09:55:49)

**Comment by luisacicolini** [comment]
changelog-library
